### PR TITLE
[Merged by Bors] - feat(NumberTheory/LSeries/Deriv): derivatives of L-series

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
This adds a file `Mathlib.NumberTheory.LSeries.Deriv` that contains results on differentiability and derivatives of L-series, including the fact that the L-series is holomorphic on its right half-plane of absolute convergence.

See [this thread](https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/topic/L-series/near/424858837) on Zulip.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/LSeries/Deriv.lean [hunk 1]
```diff
@@ -0,0 +1,249 @@
...
+import Mathlib.Analysis.SpecialFunctions.Pow.Deriv
+
+/-!
+# Differentiability and derivatives of L-series
+
+## Main results
+
+* We show that the `LSeries` of `f` is differentiable at `s` when `re s` is greater than
+  the abscissa of absolute convergence of `f` (`LSeries.hasDerivAt`) and that its derivative
+  there isthe negative of the `LSeries` of the point-wise product `log * f` (`LSeries.deriv`).
```
Comment (tb65536) [inline Mathlib/NumberTheory/LSeries/Deriv.lean:20]:
```suggestion
  there is the negative of the `LSeries` of the point-wise product `log * f` (`LSeries.deriv`).
```

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Deriv.lean]: Fixed, thanks!

File: Mathlib/NumberTheory/LSeries/Deriv.lean [hunk 2]
```diff
@@ -0,0 +1,249 @@
...
+We introduce `LSeries.logMul` as an abbreviation for the point-wise product `log * f`, to avoid
+the problem that this expression does not type-check. Similarly, we make use of the abbreviation
+`LSeries.logPowMul n f` for `log^n * f`.
+-/
+
+-- Should this go into its own file (because it needs `EReal`s, it doesn't fit well
+-- in some existing file), together with versions for the left, upper and lower half-planes?
+/-- An open right half-plane is open in the complex plane. -/
+lemma Complex.isOpen_rightHalfPlane (x : EReal) : IsOpen {z : ℂ | x < z.re} :=
+  isOpen_lt continuous_const <| EReal.continuous_coe_iff.mpr continuous_re
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Deriv.lean:38]: Here's a suggestion. One could add the lemma
````
lemma EReal.isOpen_gt (x : EReal) {α : Type*} [TopologicalSpace α] {f : α → ℝ} (hf : Continuous f) :
    IsOpen {a : α | x < f a} :=
  isOpen_lt continuous_const <| EReal.continuous_coe_iff.mpr hf
````
to `Mathlib.Topology.Instances.EReal` (and its obvious mirror-image). Then the uses of `isOpen_rightHalfPlane` can be replaced with things like `(EReal.isOpen_gt _ continuous_re)` (at line 199 and 229) or the dot-notation `... <| (abscissaOfAbsConv f).isOpen_gt continuous_re` (for the last line). Just a suggestion, feel free to ignore if you prefer another approach.

**Review by loefflerd — COMMENTED** [review]
I feel that the arguments here could be shortened substantially by using ~~`Complex.differentiableOn_tsum_of_summable_norm`~~ (edit: I meant `Complex.hasSum_deriv_of_summable_norm`, sorry) in place of `hasFDerivAt_tsum`. The point is that for a series `∑' n, f n x`, the latter result requires a locally-uniform summable bound on `deriv f`, but the former only requires a locally-uniform summable bound on `f` (which is automatic under your assumptions). 

(The downside of `Complex.differentiableOn_tsum_of_summable_norm` is that it only works for 1-variable functions, but this covers the intended applications here.)

**Comment by MichaelStollBayreuth** [comment]
> I feel that the arguments here could be shortened substantially by using `Complex.hasSum_deriv_of_summable_norm` in place of `hasFDerivAt_tsum`. The point is that for a series `∑' n, f n x`, the latter result requires a locally-uniform summable bound on `deriv f`, but the former only requires a locally-uniform summable bound on `f` (which is automatic under your assumptions).

I've changed it. It is not that much shorter, though (we need to combine [Complex.differentiableOn_tsum_of_summable_norm](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Complex/LocallyUniformLimit.html#Complex.differentiableOn_tsum_of_summable_norm) and [Complex.hasSum_deriv_of_summable_norm](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Complex/LocallyUniformLimit.html#Complex.hasSum_deriv_of_summable_norm), and we still need to use a closed  half-plane contained in the open half-plane and containing `s`).

One could perhaps use this to deduce summability results on `log * f` from this (thus saving a few lines earlier in the file), but I think it is worth having the explicit estimate in `LSeries.norm_term_logMul_le_of_re_lt_re` in any case.

**Comment by loefflerd** [comment]
> 
> One could perhaps use this to deduce summability results on `log * f` from this (thus saving a few lines earlier in the file), but I think it is worth having the explicit estimate in `LSeries.norm_term_logMul_le_of_re_lt_re` in any case.

Actually that was kind of the point of my message: that using these more powerful analytic results saves us the trouble of having to prove `log * f` is summable, and thus removes the need for these explicit bounds. (What else do you envisage this estimate being useful for?)

File: Mathlib/NumberTheory/LSeries/Deriv.lean [hunk 3]
```diff
@@ -0,0 +1,227 @@
...
+lemma LSeries.iteratedDeriv_term (f : ℕ → ℂ) (m n : ℕ) (s : ℂ) :
+    iteratedDeriv m (fun z ↦ term f z n) s =
+      (-1) ^ m * (term (logPowMul m f) s n) := by
+  induction' m with m ih generalizing f s
+  · simp only [Nat.zero_eq, iteratedDeriv_zero, pow_zero, logPowMul_zero, one_mul]
+  · have ih' : iteratedDeriv m (fun s ↦ term (logMul f) s n) =
+        fun s ↦ (-1) ^ m * (term (logPowMul m (logMul f)) s n) :=
+      funext <| ih (logMul f)
+    rw [iteratedDeriv_succ', deriv_term' f n, iteratedDeriv_neg, ih', neg_mul_eq_neg_mul,
+      logPowMul_succ', pow_succ, neg_one_mul]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Deriv.lean:185]: Do you actually use this? It seems it is not used in `LSeries.iteratedDeriv`, so I suggest deleting it, it's not particularly interesting in itself.

File: Mathlib/NumberTheory/LSeries/Deriv.lean [hunk 4]
```diff
@@ -0,0 +1,227 @@
...
+  simp only [logPowMul, pow_zero, one_mul]
+
+lemma logPowMul_succ (m : ℕ) (f : ℕ → ℂ) : logPowMul m.succ f = logMul (logPowMul m f) := by
+  ext
+  simp only [logPowMul, pow_succ, mul_assoc, logMul]
+
+lemma logPowMul_succ' (m : ℕ) (f : ℕ → ℂ) : logPowMul m.succ f = logPowMul m (logMul f) := by
+  ext m
+  simp only [logPowMul, pow_succ, logMul, ← mul_assoc]
+  rw [mul_comm (log m)]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Deriv.lean:63]: I suggest using the built-in API for iterating operations, `logMul^[n] f` (which is syntatic sugar for `Nat.iterate logMul n f`); this has its own lemmas `Function.iterate_zero`, `Function.iterate_succ` etc, so you don't need to roll your own.

File: Mathlib/NumberTheory/LSeries/Deriv.lean [hunk 5]
```diff
@@ -0,0 +1,227 @@
...
+
+/-- The derivative of the terms of an L-series. -/
+lemma LSeries.deriv_term (f : ℕ → ℂ) (n : ℕ) (s : ℂ) :
+    deriv (fun z ↦ term f z n) s = -(term (logMul f) s n) :=
+  (hasDerivAt_term f n s).deriv
+
+/-- The derivative of the terms of an L-series. -/
+lemma LSeries.deriv_term' (f : ℕ → ℂ) (n : ℕ) :
+    deriv (fun z ↦ term f z n) = fun s ↦ -(term (logMul f) s n) :=
+  funext <| deriv_term f n
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Deriv.lean:89]: How useful is this, really? I'm a bit sceptical of the value of statements of the form `deriv f = foo`, since virtually any non-trivial place where you use them will need a differentiability hypothesis anyway, and if you prove that, you've just proved the two separate parts of `HasDerivAt f foo`.

File: Mathlib/NumberTheory/LSeries/Deriv.lean [hunk 6]
```diff
@@ -0,0 +1,227 @@
...
+    (h : abscissaOfAbsConv f < s.re) :
+    LSeriesSummable (logMul f) s ∧ HasDerivAt (LSeries f) (- LSeries (logMul f) s) s := by
+  -- The L-series of `f` is summable at some real `x < re s`.
+  obtain ⟨x, h', hf⟩ := LSeriesSummable_lt_re_of_abscissaOfAbsConv_lt_re h
+  -- We work in the right half-plane `re z > (x + re s)/2`, where we have a uniform
+  -- summable bound on `‖term f z ·‖`.
+  let S : Set ℂ := {z | (x + s.re) / 2 < z.re}
+  have h₀ : Summable (fun n ↦ ‖term f x n‖) := summable_norm_iff.mpr hf
+  have h₁ : IsOpen S := isOpen_lt continuous_const continuous_re
+  have h₂ : ∀ n, DifferentiableOn ℂ (fun z ↦ term f z n) S :=
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Deriv.lean:102]: I suggest swapping the numbers for readability

File: Mathlib/NumberTheory/LSeries/Deriv.lean [hunk 7]
```diff
@@ -0,0 +1,227 @@
...
+
+private
+lemma LSeries.LSeriesSummable_logMul_and_hasDerivAt {f : ℕ → ℂ} {s : ℂ}
+    (h : abscissaOfAbsConv f < s.re) :
+    LSeriesSummable (logMul f) s ∧ HasDerivAt (LSeries f) (- LSeries (logMul f) s) s := by
+  -- The L-series of `f` is summable at some real `x < re s`.
+  obtain ⟨x, h', hf⟩ := LSeriesSummable_lt_re_of_abscissaOfAbsConv_lt_re h
+  -- We work in the right half-plane `re z > (x + re s)/2`, where we have a uniform
+  -- summable bound on `‖term f z ·‖`.
+  let S : Set ℂ := {z | (x + s.re) / 2 < z.re}
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Deriv.lean:99]: I usually go for `exists_between` for this sort of thing rather than taking the explicit midpoint. I had a reviewer patch in the works which golfed this proof considerably (reducing h3 and h4 to one line each) but it conflicts with your latest commit, I'll try rebasing it.

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Deriv.lean:81]: OK.

File: Mathlib/NumberTheory/LSeries/Deriv.lean (hunk 6 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Deriv.lean:84]: Feel free to do that.

File: Mathlib/NumberTheory/LSeries/Deriv.lean (hunk 5 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Deriv.lean:69]: The first is used in the proof of `LSeries.LSeriesSummable_logMul_and_hasDerivAt`: one needs to know the derivatives of the terms in the sum. One could replace it by its proof there, I assume.

File: Mathlib/NumberTheory/LSeries/Deriv.lean (hunk 4 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Deriv.lean]: OK.

File: Mathlib/NumberTheory/LSeries/Deriv.lean (hunk 3 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Deriv.lean]: OK.

**Comment by loefflerd** [comment]
OK, I'm done golfing. I've commented out some lemmas – these are ones where I'm sceptical about whether they're useful; if you feel strongly then feel free to reinstate them.

File: Mathlib/NumberTheory/LSeries/Deriv.lean [hunk 8]
```diff
@@ -0,0 +1,165 @@
...
+/-- If the L-series of `f` is summable at `s` and `re s < re s'`, then the L-series of the
+point-wise product of `log` with `f` is summable at `s'`. -/
+lemma LSeriesSummable.logMul_of_lt_re {f : ℕ → ℂ} {s : ℂ} (h : abscissaOfAbsConv f < s.re) :
+    LSeriesSummable (logMul f) s :=
+  (LSeriesSummable_logMul_and_hasDerivAt h).1
+
+/-- The abscissa of absolute convergence of the point-wise product of `log` and `f`
+is the same as that of `f`. -/
+@[simp]
+lemma abscissaOfAbsConv_logMul {f : ℕ → ℂ} :
```
[the remark this answers is not in the document]
Comment (loefflerd) [reply Mathlib/NumberTheory/LSeries/Deriv.lean:110]: I don't think anything here is dot-notatable, since `LSeries` is not Type-valued; but there might be an argument for putting stuff in the `LSeries` namespace anyway just for organisational purposes.

[the remark this answers is not in the document]
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Deriv.lean:110]: I'll have a look and try to come up with something consistent. (Right now, I am travelling, so this will have to wait a couple of days.)

File: Mathlib/NumberTheory/LSeries/Deriv.lean (hunk 2 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Deriv.lean]: I think it is nice to have this version available, so I'd like to keep it. But perhaps the name should be changed to `EReal.isOpen_complexRightHalfPlane`? This would allow for dot notation.

File: Mathlib/NumberTheory/LSeries/Basic.lean [hunk 9]
```diff
@@ -143,6 +143,26 @@ lemma LSeriesSummable_congr {f g : ℕ → ℂ} (s : ℂ) (h : ∀ n ≠ 0, f n
     LSeriesSummable f s ↔ LSeriesSummable g s :=
   summable_congr <| term_congr h s
 
+open Filter in
+/-- If `f` and `g` agree on large `n : ℕ`, then the `LSeries` of `f` converges at `s`
+if and only if that of `g` does. -/
+lemma LSeriesSummable_congr' {f g : ℕ → ℂ} (s : ℂ) (h : f =ᶠ[atTop] g) :
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Basic.lean:149]: The usual practice for `congr` lemmas is, I think, to have a one-way implication set up for dot-notation:
````
lemma LSeriesSummable.congr' {f g : ℕ → ℂ} {s : ℂ} (hf : LSeriesSummable f s) (hfg : f =ᶠ[atTop] g) : LSeriesSummable g s := sorry
````
and then the `iff` version outside the namespace. Since you are already proving the one-way implication inside your proof anyway, this just amounts to giving it a name.

File: Mathlib/NumberTheory/LSeries/Deriv.lean (hunk 2 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/LSeries/Deriv.lean]: IMHO, dot-notation is a nice thing to have, but we shouldn't let it override the use of namespaces to keep related results together – a lemma which is specifically about complex numbers should not go in the `EReal` namespace.

File: Mathlib/NumberTheory/LSeries/Deriv.lean (hunk 8 above)
[the remark this answers is not in the document]
Comment (loefflerd) [reply Mathlib/NumberTheory/LSeries/Deriv.lean]: The current naming scheme looks fine to me

File: Mathlib/NumberTheory/LSeries/Deriv.lean (hunk 2 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Deriv.lean]: OK. I'll leave it as is.

File: Mathlib/NumberTheory/LSeries/Basic.lean (hunk 9 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Basic.lean]: OK, done.

File: Mathlib/NumberTheory/LSeries/Deriv.lean (hunk 2 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/LSeries/Deriv.lean]: Would you be happy with renaming `Complex.isOpen_rightHalfPlane` to `Complex.isOpen_re_gt_EReal` and moving it to either a new file, or one of the existing files, in the `Analysis/Complex` directory?

**Comment by loefflerd** [comment]
LGTM

maintainer merge

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
